US08735412B2
(RS)-S-Ethyl-S-(4-nitrophenyl)-N-(trifluoroacetyl)sulfoximide
4.53 ml (32.04 mmol) of trifluoroacetic anhydride was added dropwise, with ice cooling, to a solution of 5.72 g (26.70 mmol) (RS)-S-ethyl-S-(4-nitrophenyl)sulfoximide and 4.07 ml (29.37 mmol) triethylamine in 175 ml DCM. The mixture was stirred for a further 3 hours on the ice bath, wherein the temperature rose to approx. 10° C. It was diluted with DCM and washed with semiconcentrated sodium chloride solution. The organic phase was dried (Na2SO4), filtered and concentrated by evaporation. 8.17 g (26.33 mmol) of the product was obtained.

reactant | trifluoroacetic anhydride | 32.04 mmol, 4.53 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (RS)-S-ethyl-S-(4-nitrophenyl)sulfoximide | 26.70 mmol, 5.72 g | C(C)S(=O)(=N)C1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O3S
reactant | triethylamine | 29.37 mmol, 4.07 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 175 ml | C(Cl)Cl | CH2Cl2
product | (RS)-S-Ethyl-S-(4-nitrophenyl)-N-(trifluoroacetyl)sulfoximide | 26.33 mmol, 8.17 g | C(C)S(=O)(=NC(C(F)(F)F)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9F3N2O4S
